US07632857B2
(2-(R)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure RR starting from (2-(R)-hydroxymethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone and pyrrolidine. MS (M+H) 403.2

reactant | (2-(R)-hydroxymethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone | OC[C@@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3NO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (2-(R)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone | N1(CCCC1)C[C@@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C23H25F3N2O
